US04987235
Preparation of 5,6-dihydroxy-2-methylisoindoline hydrobromide
15.39 g (66 mmol) of 5,6-dihydroxyisoindoline hydrobromide and 4.48 g (66 mmol) of sodium formate were dissolved in 100 ml of a 50% formic acid aqueous solution, and then 5.17 ml (70 mmol) of 37% formalin was added thereto. The mixture was heated at 80° C. for 4 hours. Then, the reaction solvent was distilled off under reduced pressure, and 200 ml of 23% hydrobromic acid was added to the residue. The mixture was subjected to active carbon treatment. The filtrate was again evaporated under reduced pressure to dryness, and the crystalline residue was recrystallized from water to obtain 11.74 g (yield: 72.3%) of the above identified compound.

reactant | 5,6-dihydroxyisoindoline hydrobromide | 66 mmol, 15.39 g | Br.OC=1C=C2CNCC2=CC1O
reactant | sodium formate | 66 mmol, 4.48 g | C(=O)[O-].[Na+]
reactant | formalin | 70 mmol, 5.17 ml | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 5,6-dihydroxy-2-methylisoindoline hydrobromide | yield: 72.3% | Br.OC=1C=C2CN(CC2=CC1O)C | InChI=1S/C9H11NO2.BrH/c1-10-4-6-2-8(11)9(12)3-7(6)5-10;/h2-3,11-12H,4-5H2,1H3;1H
